US05082976
20.6 g of o-nitrotoluene of 24 g of bis-(dimethylamino) ethoxy methane in 50 ml of DMF were initially introduced into a distillation apparatus and the mixture was heated at 120° C. for 6 h to form the β-amino-2-nitrostyrene. The ethanol was then removed by briefly applying vacuum.

reactant | o-nitrotoluene | 20.6 g | [N+](=O)([O-])C1=C(C=CC=C1)C | C7H7NO2
reactant | bis-(dimethylamino) ethoxy methane | 24 g | CN(C)C(COC)N(C)C | C7H18N2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | β-amino-2-nitrostyrene | NC=CC1=C(C=CC=C1)[N+](=O)[O-] | C8H8N2O2
